US07314886B2
1.B. Synthesis of 5-Bromo-7-ethyl-1H-indole-2,3-dione
To a solution of sulfuric acid (100 mL) and water (10 mL) at 80° C. (oil bath) was added N-(4-bromo-2-ethyl-phenyl)-2-hydroximino-acetoamide (61.0 g, 225 mmol) in small portions over 20 minutes. The reaction mixture was heated at 80° C. (oil bath) for 15 minutes. After cooling to room temperature, ice-water (500 mL) was added and the mixture was extracted with ethyl acetate. Extracts were washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, and concentrated under reduced pressure to give the title compound (42.3 g, 74% yield). 1H NMR (DMSO-d6) δ 8.87 (s, 1H), 7.75 (d, 1H), 7.71 (d, 1H), 2.75 (q, 2H), 1.44 (t, 3H).

reactant | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
reactant | N-(4-bromo-2-ethyl-phenyl)-2-hydroximino-acetoamide | 225 mmol, 61.0 g | BrC1=CC(=C(C=C1)NC(C=NO)=O)CC | C10H11BrN2O2
solvent | water | 10 mL | O | H2O
product | 5-Bromo-7-ethyl-1H-indole-2,3-dione | 42.3 g, 74% yield | BrC=1C=C2C(C(NC2=C(C1)CC)=O)=O | C10H8BrNO2
